US05393755
2-(trans-2-Hydroxycyclopentylamino)-1-methyl-7-(phenylmethyl)purin-6-one
Heat at reflux for 2 days a mixture of 2-chloro-1-methyl-7-(phenylmethyl)purin-6-one (3.14 g=11.4 mmol), triethylamine (1.7 g=16.8 mmol), and (±)-trans-2-aminocyclopentanol (4.04 g=39.9 mmol) in CH3CN (150 ml). Collect the precipitate, wash with water, and dry to give the title compound, a solid, FAB MS: M+1=340.

reactant | 2-chloro-1-methyl-7-(phenylmethyl)purin-6-one | 11.4 mmol, 3.14 g | ClC=1N(C(C=2N(C=NC2N1)CC1=CC=CC=C1)=O)C | C13H11ClN4O
reactant | triethylamine | 16.8 mmol, 1.7 g | C(C)N(CC)CC | C6H15N
reactant | (±)-trans-2-aminocyclopentanol | 39.9 mmol, 4.04 g | N[C@H]1[C@@H](CCC1)O | C5H11NO
solvent | CH3CN | 150 ml | CC#N | C2H3N
product | 2-(trans-2-Hydroxycyclopentylamino)-1-methyl-7-(phenylmethyl)purin-6-one | O[C@H]1[C@@H](CCC1)NC=1N(C(C=2N(C=NC2N1)CC1=CC=CC=C1)=O)C | C18H21N5O2
